US04535089
6.8 g of N-benzoylisobutyrylmethylamine, 1.56 g of 61% sodium hydride and 6.1 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(5). 6.54 g of ethyl 3-benzoylamino-3-isobutyrylpropionate are thereby obtained. Yield: 67.7%.

reactant | N-benzoylisobutyrylmethylamine | 6.8 g | C(C1=CC=CC=C1)(=O)NCC(C(C)C)=O | C12H15NO2
reactant | sodium hydride | 1.56 g | [H-].[Na+]
reactant | ethyl bromoacetate | 6.1 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-benzoylamino-3-isobutyrylpropionate | 6.54 g, Yield: 67.7% | C(C1=CC=CC=C1)(=O)NC(CC(=O)OCC)C(C(C)C)=O | C16H21NO4
